US05232917
3α-(N-[2-Hydroxyethyl]-DL-alanyloxy)-5α-pregnan-20-one hydrochloride
A solution of 3α-hydroxy-5α-pregnan-20-one (810 mg, 2.45 mmol) in 100 mL of CH2Cl2 was treated with 2-bromopropionyl chloride (1.0 mL), a catalytic amount of dimethylaminopyridine (50 mg) and triethylamine (2 mL). This mixture was stirred at room temperature for 2.0 h. The crude reaction mixture was poured into water and CH2Cl2. The organic phase was washed several times with 10% HCl, water, saturated aqueous sodium bicarbonate and finally with more water, and dried and evaporated in vacuo. The TLC examination of this material indicated complete conversion of the starting material to bromo ester product (one spot, r.f.=0.9 eluting with Hexane/EtOAc (90:10)). This crude bromo ester in acetonitrile (30 mL) was treated at 0° C. with 2-hydroxyethylamine (2.0 mL) and the mixture stored in the refrigerator overnight. The solvent was removed in vacuo and the residue partitioned between ether and water. The organic phase was separated and extracted with cold 10% HCl. The aqueous acid solution was washed with ether and treated with an excess of aqueous ammonium hydroxide solution at 0° C. The free based product was next extracted into an organic phase with several ether washing. The combined organic phase was concentrated in vacuo and the oily residue dissolved in dioxane and taken to pH 3 with concentrated hydrochloric acid gas dissolved in EtOAc. The mixture was lyophilized and the resulting white amorphous solid taken up in water and the aqueous phase washed with ethyl acetate and ether. The aqueous solution was lyophilized to give the pure title compound (700 mg) as an amorphous solid.

reactant | 3α-hydroxy-5α-pregnan-20-one | 2.45 mmol, 810 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H34O2
reactant | 2-bromopropionyl chloride | 1.0 mL | BrC(C(=O)Cl)C | C3H4BrClO
reactant | dimethylaminopyridine | 50 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3α-(N-[2-Hydroxyethyl]-DL-alanyloxy)-5α-pregnan-20-one hydrochloride | 700 mg | Cl.OCCNC(C)C(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | InChI=1S/C26H43NO4.ClH/c1-16(27-13-14-28)24(30)31-19-9-11-25(3)18(15-19)5-6-20-22-8-7-21(17(2)29)26(22,4)12-10-23(20)25;/h16,18-23,27-28H,5-15H2,1-4H3;1H/t16?,18-,19+,20-,21+,22-,23-,25-,26+;/m0./s1
